US04740620
2-chloro-6-isopropyl aniline was prepared by the method of Example 2 using an H-Y zeolite catalyst for the condensation of aniline and propylene. 2-chloroaniline and propylene were fed to the reactor in a 1:5 mole ratio and LHSV of 0.25 based on 2-chloroaniline. The reaction was conducted at 250° C. and 1343 psig. The effluent product stream was analyzed by gas chromatography. Conversion of 2-chloroaniline was 72%.

reactant | aniline | NC1=CC=CC=C1 | C6H7N
reactant | propylene | C=CC | C3H6
reactant | 2-chloroaniline | ClC1=C(N)C=CC=C1 | C6H6ClN
product | 2-chloro-6-isopropyl aniline | ClC1=C(N)C(=CC=C1)C(C)C | C9H12ClN
